US05236952
A solution of 2.0 g of 3,5-dinitropyrocatechol in 25 ml of propionic anhydride is heated at 110° for 18 hours in the presence of a catalytic amount of conc. sulfuric acid, the excess anhydride is distilled off at 70° in a high vacuum (1.33 Pa), the residue is dissolved in methylene chloride, washed with water, dried over sodium sulfate, filtered and evaporated. There is obtained 1,2-dipropionyloxy-3,5-dinitrobenzene of m.p. 74°-76° (from methylene chloride/petroleum ether).

reactant | 3,5-dinitropyrocatechol | 2.0 g | [N+](=O)([O-])C1=C(C(O)=CC(=C1)[N+](=O)[O-])O | C6H4N2O6
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | propionic anhydride | 25 ml | C(CC)(=O)OC(CC)=O | C6H10O3
product | 1,2-dipropionyloxy-3,5-dinitrobenzene | C(CC)(=O)OC1=C(C(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])OC(CC)=O | C12H12N2O8
